US06511997B1
(a) Synthesis of 2-chloro-6-fluoro-3-nitrophenylacetic Acid
1.89 g of 2-chloro-6-fluoro-phenylacetic acid was suspended in 20 ml of concentrated nitric acid. After the addition of 10 ml of concentrated sulfuric acid, the resulting mixture was heated under reflux for 3.5 hours. After the reaction mixture was poured into ice water, the resulting precipitate was collected by filtration, washed with a small amount of purified water, and then dried. Thus, 1.83 g (78% yield) of the title compound was obtained as a white powder.

reactant | 2-chloro-6-fluoro-phenylacetic acid | 1.89 g | ClC1=C(C(=CC=C1)F)CC(=O)O | C8H6ClFO2
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 20 ml | [N+](=O)(O)[O-] | HNO3
product | 2-chloro-6-fluoro-3-nitrophenylacetic Acid | 1.83 g, 78% yield | ClC1=C(C(=CC=C1[N+](=O)[O-])F)CC(=O)O | C8H5ClFNO4
